US05013741
N-[(4-Methoxyphenyl)methylene]-1,2,3,4-tetrahydro-9-acridinamine
1,2,3,4-Tetrahydro-9-acridinamine (4.0 g) was refluxed overnight in 400 ml of toluene containing 3.5 g of morpholine and 3.4 g of 4-methoxybenzaldehyde. At the end of this time, an additional 1.7 g of aldehyde was added and heating was continued for six (6) more hours. The reaction mixture was then concentrated and purified by flash chromatography (CH2Cl2, then 10% EtOAc/CH2Cl2). Fractions containing the product were concentrated and recrystallized from benzene/pentane to give 3.37 g of analytically pure material, m.p. 160°-162° C.

reactant | 1,2,3,4-Tetrahydro-9-acridinamine | 4.0 g | C1CCCC2=NC3=CC=CC=C3C(=C12)N | C13H14N2
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 4-methoxybenzaldehyde | 3.4 g | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | toluene | 400 ml, 3.5 g | C1(=CC=CC=C1)C | C7H8
product | N-[(4-Methoxyphenyl)methylene]-1,2,3,4-tetrahydro-9-acridinamine | COC1=CC=C(C=C1)C=NC=1C2=CC=CC=C2N=C2CCCCC12 | C21H20N2O
